US07141586B2
Carbonyldiimidazole (254 mg, 1.57 mmol) was added to a suspension of 2-chloro-5-fluoro-nicotinic acid (250 mg, 1.42 mmol) in dichloromethane (10 ml) under nitrogen at room temperature. The resulting solution was stirred for 15 min after which a solution of (1-amino-cyclopentyl)-methanol (197 mg, 1.71 mmol) and 4-dimethylaminopyridine (9 mg, 0.07 mmol) in dichloromethane (5 ml) was added. The reaction was stirred at room temperature for 18 h then diluted with dichloromethane (20 mls) and washed with sat. ammonium chloride solution (20 ml). The organic phase was dried over MgSO4 and the solvent was removed under reduced pressure. The residue was triturated with dichloromethane (5 ml) to give 2-Chloro-5-fluoro-N-(1-hydroxymethyl-cyclopentyl)-nicotinamide (100 mg) as white solid.

reactant | Carbonyldiimidazole | 1.57 mmol, 254 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-chloro-5-fluoro-nicotinic acid | 1.42 mmol, 250 mg | ClC1=C(C(=O)O)C=C(C=N1)F | C6H3ClFNO2
reactant | (1-amino-cyclopentyl)-methanol | 1.71 mmol, 197 mg | NC1(CCCC1)CO | C6H13NO
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.07 mmol, 9 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mls | ClCCl | CH2Cl2
product | 2-Chloro-5-fluoro-N-(1-hydroxymethyl-cyclopentyl)-nicotinamide | 100 mg | ClC1=C(C(=O)NC2(CCCC2)CO)C=C(C=N1)F | C12H14ClFN2O2
